US05407900
1.63 ml of 1,5-diazabicyclo(5.4.0)undec-5-ene followed by 3.15 g of N-(4-cyclopropyl-6-ethoxy-triazin-2-yl)-phenylcarbamate are added to a solution of 2.24 g of 3-difluoromethoxypyridin-2-yl-sulfonamide in 40 ml of acetonitrile. The reaction mixture is stirred for 45 minutes at room temperature and then concentrated using a rotary evaporator. The oily residue is triturated with 8 ml of 2N hydrochloric acid and diluted with 10 ml of water. The crystal mass is filtered off, washed with water and diethyl ether and dried, yielding 4.05 g of N-(3-difluoromethoxypyridine-2-sulfonyl)-N'-(4-cyclopropyl-6-ethoxy-triazin-2-yl)-urea having a melting point of 144°-145° C.

reactant | 1,5-diazabicyclo(5.4.0)undec-5-ene | 1.63 ml | N12CCCN=CC2CCCC1 | C9H16N2
reactant | N-(4-cyclopropyl-6-ethoxy-triazin-2-yl)-phenylcarbamate | 3.15 g | C1(CC1)C1=NN(NC(=C1)OCC)N(C([O-])=O)C1=CC=CC=C1
reactant | 3-difluoromethoxypyridin-2-yl-sulfonamide | 2.24 g | FC(OC=1C(=NC=CC1)S(=O)(=O)N)F | C6H6F2N2O3S
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-(3-difluoromethoxypyridine-2-sulfonyl)-N'-(4-cyclopropyl-6-ethoxy-triazin-2-yl)-urea | 4.05 g | FC(OC=1C(=NC=CC1)S(=O)(=O)NC(=O)NN1NC(=CC(=N1)C1CC1)OCC)F | C15H18F2N6O5S
